US04105776
By substituting 1-(3-mercaptopropanoyl)-5-hydroxy-L-pipecolic acid for the 3-mercaptopropanoyl-L-proline in the procedure of Example 97, 1-[3-(ethyldithio)propanoyl]-5-hydroxy-L-pipecolic acid is obtained.

reactant | 1-(3-mercaptopropanoyl)-5-hydroxy-L-pipecolic acid | SCCC(=O)N1C(C(=O)O)CCC(C1)O | C9H15NO4S
reactant | 3-mercaptopropanoyl-L-proline | SCCC(=O)N1[C@H](C(=O)O)CCC1 | C8H13NO3S
product | 1-[3-(ethyldithio)propanoyl]-5-hydroxy-L-pipecolic acid | C(C)SSCCC(=O)N1C(C(=O)O)CCC(C1)O | C11H19NO4S2
